US05882628
d. 1,3,5-Triiodobenzene-2,4,6-trialdehyde
1,3,5-Triiodo-2,4,6-trihydroxymethylbenzene (4.5 g, 8.2 mmol) was dissolved in DMSO (80 ml). Triethylamine (51.7 ml, 371 mmol) and pyridine.SO3 (11.8 g, 74.2 mmol) were added and the mixture was stirred for two hours. The two phases were separated and the lower phase was cooled to 0° C., poured into water (150 ml) and stirred for 30 min at 0° C. The white solid was collected by filtration, washed with water and dried. Yield: 3.0 g (67%).

reactant | 1,3,5-Triiodo-2,4,6-trihydroxymethylbenzene | 8.2 mmol, 4.5 g | IC1=C(C(=C(C(=C1CO)I)CO)I)CO | C9H9I3O3
reactant | Triethylamine | 371 mmol, 51.7 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | DMSO | 80 ml | CS(=O)C | C2H6OS
product | 1,3,5-Triiodobenzene-2,4,6-trialdehyde | IC1=C(C(=C(C(=C1C=O)I)C=O)I)C=O | C9H3I3O3
